US04314065
A mixture of 4-[N-methyl-N-(2-benzimidazolyl)amino]phenol (1.14 g), methyl 2-bromopropionate (0.80 g), anhydrous potassium carbonate (0.72 g) and dimethylformamide (25 ml) was heated for 4 hours at a temperature of 100° C. with vigorous stirring. After cooling, the mixture was poured into water and the aqueous solution was extracted with dichloromethane. The organic extract was washed with water, dried over anhydrous magnesium sulfate and the solvent was removed by distillation under reduced pressure. The residue was purified by chromatography over silica gel with dichloromethane elution to give methyl 2-{4-[N-methyl-N-(2-benzimidazolyl)amino]phenoxy}propionate (1.0 g) as a colourless oil. The pmr spectrum of the compound was consistent with the assigned structure (CDCl3 ; chemical shift δppm): 1.50, d, 3H; 3.35, s, 3H; 3.70, s, 3H; 4.60, q, 1H; 6.50-7.60, m, 9H.

reactant | 4-[N-methyl-N-(2-benzimidazolyl)amino]phenol | 1.14 g | CN(C=1NC2=C(N1)C=CC=C2)C2=CC=C(C=C2)O | C14H13N3O
reactant | methyl 2-bromopropionate | 0.80 g | BrC(C(=O)OC)C | C4H7BrO2
reactant | potassium carbonate | 0.72 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | methyl 2-{4-[N-methyl-N-(2-benzimidazolyl)amino]phenoxy}propionate | 1.0 g | CN(C=1NC2=C(N1)C=CC=C2)C2=CC=C(OC(C(=O)OC)C)C=C2 | C18H19N3O3
